US08017602B2
Step iii) 3-(3-(1,2,4-Oxadiazol-3-yl)phenethoxy)-N-cyclohexyl-N-(2-oxoethyl)propanamide
To 3-(3-(1,2,4-oxadiazol-3-yl)phenethoxy)-N-cyclohexyl-N-(2,2-dimethoxyethyl)propanamide [Example 11, Step ii)] (500 mg) in NMP (4 mL) was added p-toluenesulfonic acid (441 mg) and the mixture stirred for 8 h. After work-up the material was used in the next step directly.

reactant | 3-(3-(1,2,4-oxadiazol-3-yl)phenethoxy)-N-cyclohexyl-N-(2,2-dimethoxyethyl)propanamide | O1N=C(N=C1)C=1C=C(CCOCCC(=O)N(CC(OC)OC)C2CCCCC2)C=CC1 | C23H33N3O5
reactant | p-toluenesulfonic acid | 441 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | NMP | 4 mL | CN1CCCC1=O | C5H9NO
product | 3-(3-(1,2,4-Oxadiazol-3-yl)phenethoxy)-N-cyclohexyl-N-(2-oxoethyl)propanamide | O1N=C(N=C1)C=1C=C(CCOCCC(=O)N(CC=O)C2CCCCC2)C=CC1 | C21H27N3O4
